US04138397
Sulfo(2,3-dihydro-5-benzofuranyl)acetyl chloride is prepared according to the general procedure described in J. Med. Chem., 15, 1105 (1972). Sulfo(2,3-dihydro-5-benzofuranyl)acetic acid (20 mmole) is added slowly to a solution of ether (4 ml) and thionyl chloride (150 mmole). The mixture is stirred at room temperature until the gas evolution stopped. Then about 0.2 ml of dimethylformamide is added and the solution heated at 40° C. for 4 hours. The mixture is diluted with 30 ml of ether and 30 ml of hexane and then cooled to -25° C. Sulfo(2,3-dihydro-5-benzofuranyl)acetyl chloride is recovered from the mixture and used without further purification.

reactant | Sulfo(2,3-dihydro-5-benzofuranyl)acetic acid | 20 mmole | S(=O)(=O)(O)C(C(=O)O)C=1C=CC2=C(CCO2)C1 | C10H10O6S
reactant | thionyl chloride | 150 mmole | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | about 0.2 ml | CN(C=O)C | C3H7NO
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | hexane | 30 ml | CCCCCC | C6H14
solvent | ether | 4 ml | CCOCC | C4H10O
product | Sulfo(2,3-dihydro-5-benzofuranyl)acetyl chloride | S(=O)(=O)(O)C(C(=O)Cl)C=1C=CC2=C(CCO2)C1 | C10H9ClO5S
